US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (2.0 g) as starting compound, potassium carbonate (3.0 g) and 6-bromo-1-(2-thienyl)-1-hexanone (1.6 g) were reacted and treated in the same manner as in Example 172 to give 0.27 g of 4-amino-5-chloro-N-((1-(6-oxo-6-(2-thienyl)hexyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 2.0 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-1-(2-thienyl)-1-hexanone | 1.6 g | BrCCCCCC(=O)C=1SC=CC1 | C10H13BrOS
product | 4-amino-5-chloro-N-((1-(6-oxo-6-(2-thienyl)hexyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.27 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(C=2SC=CC2)=O)C=C1Cl)OC | C24H32ClN3O3S
